US07220862B2
7-Ethyl-3-methylindazole-5-carboxaldehyde
5-Bromo-7-ethyl-3-methylindazole (2.85 g, 11.9 mmol) and sodium hydride (0.31 g, 1.1 equiv.) were weighed into a flame-dried round-bottom flask containing a magnetic stir bar. Under a nitrogen atmosphere at room temperature, dry tetrahydrofuran (15 mL) was added. The mixture was stirred at room temperature for 15 min, during which time it became homogeneous. The stirred mixture was cooled to −78° C. and a solution of tert-butyllithium in pentane (1.4M, 18.7 mL, 2.0 equiv) was added over several minutes. After 1 h at −78° C., dimethylformamide (2.8 mL) was slowly added and the mixture allowed to warm to room temperature overnight. The solution was cooled to 0° C. and carefully treated with 1N hydrochloric acid (30 mL). After a few minutes, solid sodium bicarbonate was added until a pH of 9–10 was attained. The two layers were separated and the aqueous phase washed twice with ethyl acetate. The combined organic layers were washed with water (2×), brine (2×), dried over sodium sulfate, and concentrated. Column chromatography gave 1.5 g (67%) of pure material. LC/MS: tR=1.15 min, 189.12 (MH)+.

reactant | 5-Bromo-7-ethyl-3-methylindazole | 11.9 mmol, 2.85 g | BrC=1C=C2C(=NNC2=C(C1)CC)C | C10H11BrN2
reactant | sodium hydride | 0.31 g, 1.1 equiv. | [H-].[Na+]
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 1.4M, 18.7 mL, 2.0 equiv | CCCCC | C5H12
reactant | hydrochloric acid | 1N, 30 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 2.8 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 7-Ethyl-3-methylindazole-5-carboxaldehyde | 1.5 g, 67% | C(C)C=1C=C(C=C2C(=NNC12)C)C=O | C11H12N2O
